US06780996B2
A mixture of sodium thiophenoxide (181 mg, 1.37 mmol) and 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile (100 mg, 0.27 mmol) in 3 mL of tetrahydrofuran is heated at reflux overnight. N-methylpyrrolidone (2 mL) is added and the reaction mixture is heated at 120° C. for 1 hour then at 140° C. for for 45 min. An additional 100 mg of sodium thiophenol is added and the reaction mixture is heated at 140° C. for 3 hours. The reaction mixture is partitioned between ethyl acetate and water. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a 1:4 ethyl acetate:hexane to provide 36 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-phenylsulfanyl-3-quinolinecarbonitrile, mp 220-222° C.

reactant | sodium thiophenoxide | 1.37 mmol, 181 mg | [S-]C1=CC=CC=C1.[Na+]
reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 0.27 mmol, 100 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
reactant | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium thiophenol | 100 mg | C1(=CC=CC=C1)S.[Na]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-phenylsulfanyl-3-quinolinecarbonitrile | 36 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)SC1=CC=CC=C1)C#N | C24H17Cl2N3O2S
